US09193935B2
1-Isopropyl-3-[5-(4-methoxyphenyl)pent-4-en-2-yl]benzene
Potassium t-butylat (17.1 mL, 17.1 mmol, 1.0 equiv., 1M in THF) was added to a solution of (4-methoxyphenyl)methyltriphenylphosphonium bromide (7.90 g, 17.1 mmol, 1.0 equiv.) in THF (17 mL) at 25° C. After the dark red suspension was stirred at 25° C. for 10 min, 3-(3-isopropylphenyl)butanal (3.24 g, 17.1 mmol, 1.0 equiv.) in THF (8.5 mL) was added, and the mixture was stirred at 25° C. 12 h. After addition of 20% aq. AcOH-solution at 25° C., the aqueous layer was extracted with hexane. The combined organic phases were washed with MeOH/H2O (4:1; 2-3x), dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane/EtOAc 995:5→99:1) to yield 4.03 g (80%) of the title compound as a light yellow oil.

reactant | (4-methoxyphenyl)methyltriphenylphosphonium bromide | 17.1 mmol, 7.90 g, 1.0 equiv. | [Br-].COC1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-(3-isopropylphenyl)butanal | 17.1 mmol, 3.24 g, 1.0 equiv. | C(C)(C)C=1C=C(C=CC1)C(CC=O)C | C13H18O
reactant | AcOH | CC(=O)O | C2H4O2
solvent | THF | 17 mL | C1CCOC1 | C4H8O
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
product | 1-Isopropyl-3-[5-(4-methoxyphenyl)pent-4-en-2-yl]benzene | 4.03 g, 80% | C(C)(C)C1=CC(=CC=C1)C(C)CC=CC1=CC=C(C=C1)OC | C21H26O
